US07262196B2
Condensation of (E)-3-cyclopentyl-2-(6-ethylsulfanylpyridin-3-yl)acrylic acid (Preparation 4, 215 mg, 0.78 mmol) with 5-fluorothiazol-2-ylamine hydrochloride (Preparation 21, 240 mg, 1.55 mmol), by the protocol described in EXAMPLE 5, yielded (E)-3-cyclopentyl-2-(6-ethylsulfanylpyridin-3-yl)-N-(5-fluorothiazol-2-yl)acrylamide: m/z (ES+)=378.2 [M+H]+. Oxidation of this thioether (22 mg, 60 μmol), by the protocol described in EXAMPLE 55, gave the title compound: RTA=3.50 min; m/z (ES+)=394.2 [M+H]+.

reactant | (E)-3-cyclopentyl-2-(6-ethylsulfanylpyridin-3-yl)acrylic acid | 0.78 mmol, 215 mg | C1(CCCC1)/C=C(/C(=O)O)\C=1C=NC(=CC1)SCC | C15H19NO2S
reactant | 5-fluorothiazol-2-ylamine hydrochloride | 1.55 mmol, 240 mg | Cl.FC1=CN=C(S1)N
product | (E)-3-cyclopentyl-2-(6-ethylsulfanylpyridin-3-yl)-N-(5-fluorothiazol-2-yl)acrylamide | C1(CCCC1)/C=C(/C(=O)NC=1SC(=CN1)F)\C=1C=NC(=CC1)SCC | C18H20FN3OS2
